US08067445B2
Step 1: 2-Bromo-4-trifluoromethyl-benzaldehyde
2-Bromo-4-(trifluoromethyl)benzyl alcohol (4.0 g, 15.88 mmol) and Dess-Martin periodinane (7.14 g, 16.67 mmol) were combined in CH2Cl2 and stirred for 1.5 hours at room temperature. Saturated aqueous Na2CO3 was added, and a white precipitate was formed. The mixture was diluted with CH2Cl2 and saturated aqueous Na2CO3 and stirred for 1 hour. 1N Aqueous NaOH was added, and the organic layer was separated and concentrated. The residue was purified by silica gel chromatography (0-80% EtOAc in hexanes) to give the title compound.

reactant | 2-Bromo-4-(trifluoromethyl)benzyl alcohol | 15.88 mmol, 4.0 g | BrC1=C(CO)C=CC(=C1)C(F)(F)F | C8H6BrF3O
reactant | Dess-Martin periodinane | 16.67 mmol, 7.14 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-Bromo-4-trifluoromethyl-benzaldehyde | BrC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4BrF3O
